### PR TITLE
[Merged by Bors] - refactor(Data/Finsupp/Basic): Extract `Finsupp.curry_uncurry`

### PR DESCRIPTION
**Pull request by BoltonBailey**
Refactors the `finsuppProdEquiv` definition so that the inverse laws are now separate (simp) lemmas: `Finsupp.curry_uncurry` and `Finsupp.uncurry_curry`. Also factors out `Finsupp.uncurry_apply_pair` as a prerequisite to these.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finsupp/Basic.lean [hunk 1]
```diff
@@ -1069,22 +1069,30 @@ finitely supported functions from `β` to `M`,
 protected def uncurry (f : α →₀ β →₀ M) : α × β →₀ M :=
   f.sum fun a g => g.sum fun b c => single (a, b) c
 
+@[simp]
+theorem uncurry_apply (f : α →₀ β →₀ M) (x : α) (y : β) : f.uncurry (x, y) = f x y := by
+  rw [← curry_apply (f.uncurry) x y]
+  simp only [Finsupp.curry, Finsupp.uncurry, sum_sum_index, single_zero, single_add,
+    forall_true_iff, sum_single_index, single_zero, (single_sum _ _ _).symm,
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Finsupp/Basic.lean:1076]: Does this work?
```suggestion
    forall_true_iff, sum_single_index, single_zero, ← single_sum,
```

File: Mathlib/Data/Finsupp/Basic.lean [hunk 2]
```diff
@@ -1069,22 +1069,30 @@ finitely supported functions from `β` to `M`,
 protected def uncurry (f : α →₀ β →₀ M) : α × β →₀ M :=
   f.sum fun a g => g.sum fun b c => single (a, b) c
 
+@[simp]
+theorem uncurry_apply (f : α →₀ β →₀ M) (x : α) (y : β) : f.uncurry (x, y) = f x y := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Finsupp/Basic.lean:1073]: Note existing `Function.uncurry_apply_pair`. I think you probably want to make this protected and add the `_pair`.

**Review by Ruben-VandeVelde — APPROVED** [review]
Makes sense

maintainer delegate

**Comment by urkud** [comment]
Thanks! :tada:
bors merge
